US04997835
6.5 g of the thus obtained 2-methyl-4-aminopyridine-N-oxide were dissolved in 80 ml of acetic anhydride and heated for 3 hours at 80° to 100° C. The excess anhydride was decomposed with ice, the solution adjusted with Na2CO3 to pH 8 and extracted with dichloromethane. After rotating in the organic phase, 5 g of 2-acetoxymethyl-4-acetylaminopyridine were obtained.

reactant | 2-methyl-4-aminopyridine-N-oxide | CC1=[N+](C=CC(=C1)N)[O-] | C6H8N2O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | acetic anhydride | 80 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetoxymethyl-4-acetylaminopyridine | 5 g | C(C)(=O)OCC1=NC=CC(=C1)NC(C)=O | C10H12N2O3
